* Isolate test 3: leave LIN (diode bias) floating, exactly as the model author's working reference test does.
.include lm13700.sub
Vcc VCC 0 9
Vvref VREF 0 4.5
Vsig OTAIN 0 SINE(0 15m 100)
Iabc 0 IABC1 1m
R4 OUT1 VREF 47k
XOTA1 NC1 OTAIN 0 IABC1 OUT1 VCC 0 0 BUF1 HALF13700
RBUFBLEED BUF1 0 1G
.tran 0 0.05 0 20u
.end
